US04260771
Preparation of p-{3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinylmethyl}hydrocinnamic Acid
p-{3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinylmethyl}cinnamic Acid (7.8 g., 0.02 mole) in ethanol (125 ml.) is hydrogenated over 2.5 g. of a 5% Pd on charcoal catalyst at 1 atmosphere pressure and 27° C. When the theoretical amount (0.02 mole) of hydrogen has been absorbed, the catalyst is filtered off, the solvent evaporated, and the residue chromatographed on silica gel with 4% methanol in chloroform as the eluant. The title compound is obtained as a colorless, viscous oil.

reactant | p-{3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinylmethyl}cinnamic Acid | 0.02 mole, 7.8 g | OC1(CCCCC1)CCN1C(SCC1=O)CC1=CC=C(C=CC(=O)O)C=C1 | C21H27NO4S
reactant | hydrogen | 0.02 mole | [H][H] | H2
solvent | ethanol | 125 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | [Pd] | Pd
product | p-{3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinylmethyl}hydrocinnamic Acid | OC1(CCCCC1)CCN1C(SCC1=O)CC1=CC=C(CCC(=O)O)C=C1 | C21H29NO4S
